US04943568
Tert.-butyl Z-2-(2-acetamido-5-chlorothiazol-4-yl)but-2-enoate
78 g (0.28 mol) of tert.-butyl Z-2-(2-acetamidothiazol-4-yl)but-2-enoate are suspended in a mixture of 2 l of carbon tetrachloride and 15 ml of glacial acetic acid at 0° C. 43 g (0.32 mol) of sulphuryl chloride, dissolved in 600 ml of carbon tetrachloride, are added dropwise in the course of five hours, while stirring. The solution is extracted once with saturated sodium bicarbonate solution and once with water, dried and concentrated to about 200 ml. The product which has precipitated is filtered off with suction and washed with ether (53.4 g). The mother liquor is evaporated completely and a second fraction of the product (6 g) is obtained by crystallization of the residue with ether/ligroin. Yield: 59.4 g=67.8% of theory.

reactant | tert.-butyl Z-2-(2-acetamidothiazol-4-yl)but-2-enoate | 0.28 mol, 78 g | C(C)(=O)NC=1SC=C(N1)/C(/C(=O)OC(C)(C)C)=C/C | C13H18N2O3S
reactant | sulphuryl chloride | 0.32 mol, 43 g | S(=O)(=O)(Cl)Cl | Cl2O2S
solvent | carbon tetrachloride | 2 l | C(Cl)(Cl)(Cl)Cl | CCl4
solvent | acetic acid | 15 ml | C(C)(=O)O | C2H4O2
solvent | carbon tetrachloride | 600 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | Tert.-butyl Z-2-(2-acetamido-5-chlorothiazol-4-yl)but-2-enoate | 6 g | C(C)(=O)NC=1SC(=C(N1)/C(/C(=O)OC(C)(C)C)=C/C)Cl | C13H17ClN2O3S
